US09169259B2
To a solution of methyl 3-(8-(6-(2-(hydroxymethyl)pyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoate (185 mg, 0.416 mmol) in dioxane (5 mL) and water (4.5 mL) was added NaOH (167 mg, 4.16 mmol), then the mixture was heated to 40° C. with stirring for 4 h. The solution was concentrated in vacuo then water (10 mL) was added and the solution was washed with dichloromethane (10 mL×3). The aqueous layer was adjusted to pH=4 by addition of concentrated HCl. The solid formed was filtered to give 3-(8-(6-(2-(hydroxymethyl)pyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoic acid (0.096 g, 54%) as a yellow solid. 1H NMR (300 MHz, DMSO): δ 10.84 (s, 1H), 9.19 (s, 1H), 8.60 (s, 1H), 8.51 (s, 1H), 8.31 (s, 1H), 8.23 (d, 1H, J=7.5 Hz), 8.13 (d, 1H, J=7.5 Hz), 7.71 (t, 1H, J=7.8 Hz), 7.53 (t, 1H, J=7.8 Hz), 6.72 (d, 1H, J=7.5 Hz), 6.27 (d, 1H, J=8.1 Hz), 3.96 (brs, 2H), 3.61 (brs, 1H), 3.46-3.37 (m, 2H), 2.07-1.95 (m, 4 h). LC-MS: [M+H]+, 431, tR=1.459 min, HPLC: 99.27% at 214 nm, 99.49% at 254 nm, tR=5.08 min.

reactant | methyl 3-(8-(6-(2-(hydroxymethyl)pyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoate | 0.416 mmol, 185 mg | OCC1N(CCC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C=1C=C(C(=O)OC)C=CC1)C=CN2 | C24H24N6O3
reactant | NaOH | 4.16 mmol, 167 mg | [OH-].[Na+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | 4.5 mL | O | H2O
product | 3-(8-(6-(2-(hydroxymethyl)pyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoic acid | 0.096 g, 54% | OCC1N(CCC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C=1C=C(C(=O)O)C=CC1)C=CN2 | C23H22N6O3
